US07402595B2
To a mixture of 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (300 mg), triethylamine (98 μl) and toluene (6.0 ml) was added diphenylphosphorylazide (257 μl) at room temperature with stirring, and the mixture was stirred at room temperature for 1 hr. and at 80° C. for 1 hr. After cooling the reaction mixture, benzyl alcohol (86 μl) was added, and the mixture was further stirred at 80° C. for 12 hrs. After cooling the reaction mixture, the solvent was evaporated and the residue was purified by medium pressure preparative LC (hexane/ethyl acetate=9/1-1/1) to give (2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)carbamic acid benzyl ester as a colorless oil.

reactant | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 300 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Br)=O | C23H16BrNO3
reactant | triethylamine | 98 μl | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 257 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 86 μl | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 6.0 ml | C1(=CC=CC=C1)C | C7H8
product | (2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=CC=C1)=O | C30H23BrN2O3
